US05593983
Acetyl chloride (9.71 ml) was added to a stirred solution of (3β,5α)-3-hydroxypregnane-11,20-dione (97.1 g) [prepared as described by Cameron et al., J. Chem. Soc., 1955, 2807] in methanol (2.4 l) and a solution of bromine (18.5 ml) in methanol (1 l) was then added over 30 min at room temperature. The reaction mixture was poured into water (30 l) and the precipitated solid was filtered off, washed with water and dissolved in dichloromethane. After drying the solution over sodium sulfate, the solvent was removed under reduced pressure to give crude (3β,5α)-21-bromo-3-hydroxypregnane-11,20-dione (120 g). δ (CDCl3) 0.61 (s,3H), 1.02 (s,3H), 3.00-3.20 (m,1H), 3.49-3.62 (m,2H) and 3.85 (s,2H). Potassium acetate (240 g), potassium iodide (6 g) and glacial acetic acid (250 ml) were added to a solution of (3β,5α)-21-bromo-3-hydroxypregnane-11,20-dione (120 g) in acetone (4.8 l) and the mixture was heated under reflux for 3 h. The reaction mixture was poured into water (50 l) and the precipitated solid was filtered off, washed with water and dissolved in dichloromethane. After drying the solution over sodium sulfate, the solvent was removed under reduced pressure. The residue was chromatographed over silica gel and the purified product was crystallised from diethyl ether to give (3β,5α)-21-(acetyloxy)-3-hydroxypregnane-11,20-dione (26 g) m.p. 163°-165° C.; [α]D +103.3° (c 0.97). 4-Toluenesulfonyl chloride (52 g) was added to a solution of (3β,5α)-21-(acetyloxy)-3-hydroxypregnane-11,20-dione (26 g) in pyridine (260 ml) and the solution was stirred for 4 h at room temperature. The reaction mixture was poured into water (2.6 l) and the precipitated solid was filtered off, washed with water and dissolved in dichloromethane. After drying the solution over sodium sulfate, the solvent was removed under reduced pressure. Crystallisation of the residue from methanol gave (3β,5α)-21-(acetyloxy)-3-{[(4-methylphenyl)sulfonyl]oxy}pregnane-11,20-dione (35 g). m.p. 155°-156° C.; [α]D +62.4° (c 1.11).

reactant | Potassium acetate | 240 g | C(C)(=O)[O-].[K+]
reactant | potassium iodide | 6 g | [I-].[K+]
reactant | acetic acid | 250 ml | C(C)(=O)O | C2H4O2
reactant | (3β,5α)-21-bromo-3-hydroxypregnane-11,20-dione | 120 g | BrCC([C@H]1CC[C@H]2[C@@H]3CC[C@H]4C[C@H](CC[C@]4(C)[C@H]3C(C[C@]12C)=O)O)=O | C21H31BrO3
solvent | acetone | 4.8 l | CC(=O)C | C3H6O
solvent | water | 50 l | O | H2O
product | (3β,5α)-21-(acetyloxy)-3-hydroxypregnane-11,20-dione | 26 g | C(C)(=O)OCC([C@H]1CC[C@H]2[C@@H]3CC[C@H]4C[C@H](CC[C@]4(C)[C@H]3C(C[C@]12C)=O)O)=O | C23H34O5
